US07932272B2
To a solution of 5-benzyloxy-thiophene-2-carbonitrile described in Preparation Example 81 (30 mg, 0.14 mmol) in tetrahydrofuran (3 mL) was added lithium aluminum hydride (21 mg, 0.557 mmol), which was then stirred for 1.5 hours at room temperature. Sodium fluoride (240 mg, 5.72 mmol) was added to the reaction mixture, which was stirred for 2 hours, then, on an ice bath, 10% hydrous tetrahydrofuran (2 mL) was added. The reaction mixture was filtered through Celite pad, the filtrate was concentrated and C-(5-benzyloxy-thiophen-2-yl)methylamine (32 mg, 0.147 mmol) was obtained as a crude product. The title compound (3 mg, 0.008 mmol, 5.4%) was obtained from this and quinoline-6-carboxylic acid (26 mg, 0.15 mmol) according to an analogous method to Example H-1.

reactant | 5-benzyloxy-thiophene-2-carbonitrile | C(C1=CC=CC=C1)OC1=CC=C(S1)C#N | C12H9NOS
reactant | lithium aluminum hydride | 0.557 mmol, 21 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium fluoride | 5.72 mmol, 240 mg | [F-].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | C-(5-benzyloxy-thiophen-2-yl)methylamine | 0.147 mmol, 32 mg | C(C1=CC=CC=C1)OC1=CC=C(S1)CN | C12H13NOS
